US07714000B2
(b) N-[3-methyl-4-(pyrrolidine-1-sulphonyl)-phenyl]-acetamide
1.45 g of 4-acetylamino-2-methyl-benzenesulphonyl chloride (5.85 mmol) at 0° C. are suspended in 19 ml sodium hydroxide solution (1 M) and then 0.51 ml pyrrolidine (6.47 mmol), dissolved in 9 ml acetone, are added dropwise within half an hour. The solution is heated to ambient temperature overnight and then acidified with hydrochloric acid (2 M). The suspension is extracted twice with ethyl acetate. The combined organic phases are dried over sodium sulphate and evaporated down. A brown oil remains.

reactant | 4-acetylamino-2-methyl-benzenesulphonyl chloride | 5.85 mmol, 1.45 g | C(C)(=O)NC1=CC(=C(C=C1)S(=O)(=O)Cl)C | C9H10ClNO3S
reactant | pyrrolidine | 6.47 mmol, 0.51 ml | N1CCCC1 | C4H9N
reactant | hydrochloric acid | 2 M | Cl | ClH
solvent | sodium hydroxide | 1 M, 19 ml | [OH-].[Na+]
solvent | acetone | 9 ml | CC(=O)C | C3H6O
product | N-[3-methyl-4-(pyrrolidine-1-sulphonyl)-phenyl]-acetamide | CC=1C=C(C=CC1S(=O)(=O)N1CCCC1)NC(C)=O | C13H18N2O3S
